US07582657B2
(2E)-3-[4-(tert-Butyl)phenyl]-N-(3-hydroxyphenyl)prop-2-enamide.
To a round-bottomed flask equipped with magnetic stirring was added 4-tert-butyl-trans-cinnamic acid (530 mg, 2.43 mmol, EMKA-Chemie), CH2Cl2 (10 mL), and DMF (10 uL, Aldrich) under N2. The solution was treated dropwise with oxalyl chloride (3.0 mL, 6.0 mmol, 2.0 M in CH2Cl2, Aldrich) then stirred at 25° C. for 1 h. The reaction mixture was concentrated in vacuo and treated with 3-aminophenol (265 mg, 2.43 mmol, Aldrich), THF (20 mL) and satd K2CO3 (15 mL). The reaction mixture was stirred at 25° C. overnight, then acidified to pH˜4.5 with 1 N HCl. The mixture was extracted with EtOAc (2×30 mL), the combined organic extract was dried and concentrated in vacuo. Purification by silica gel chromatography (2:1 hexane:EtOAc) provided the title product as an oil. MS (ESI, pos. ion) m/z: 296 (M+1).

reactant | 4-tert-butyl-trans-cinnamic acid | 2.43 mmol, 530 mg | C(C)(C)(C)C1=CC=C(/C=C/C(=O)O)C=C1 | C13H16O2
reactant | oxalyl chloride | 6.0 mmol, 2.0 M, 3.0 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 3-aminophenol | 2.43 mmol, 265 mg | NC=1C=C(C=CC1)O | C6H7NO
reactant | K2CO3 | 15 mL | C(=O)([O-])[O-].[K+].[K+]
reactant | HCl | 1 N | Cl | ClH
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | DMF | 10 uL | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | (2E)-3-[4-(tert-Butyl)phenyl]-N-(3-hydroxyphenyl)prop-2-enamide | C(C)(C)(C)C1=CC=C(C=C1)/C=C/C(=O)NC1=CC(=CC=C1)O | C19H21NO2
